US07723330B2
Step C: Preparation of 3-methyl-2-(phenylamino)pyrimidin-4(3H)-one.
To a solution of 2-(phenylamino)pyrimidin-4(3H)-one (0.250 g, 1.34 mmol) in DMF (10 mL) was added LiH (0.012 g, 1.47 mmol). The reaction mixture was stirred for 25 minutes and then iodomethane (0.166 mL, 2.67 mmol) was added. The reaction was stirred at room temperature for 18 hours, the quenched with H2O and partitioned between EtOAc and saturated aqueous NaCl. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude yellow oil. The crude product was purified by flash column chromatography, eluting with 30:1 dichloromethane/methanol. The desired product (0.166 g, 62%) was obtained as a white crystalline solid. 1H NMR (400 MHz, CDCl3) δ 7.68 (d, J=6.2 Hz, 1H), 7.46 (m, 2H), 7.39 (t, J=7.8 Hz, 2H), 7.19 (t, J=7.4 Hz, 1H), 6.48 (s, 1H), 6.01 (d, J=6.6 Hz, 1H), 3.58 (s, 3H). LRMS (ESI pos) m/e 202 (M+1).

reactant | 2-(phenylamino)pyrimidin-4(3H)-one | 1.34 mmol, 0.250 g | C1(=CC=CC=C1)NC1=NC=CC(N1)=O | C10H9N3O
reactant | LiH | 1.47 mmol, 0.012 g | [H-].[Li+]
reactant | iodomethane | 2.67 mmol, 0.166 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.166 g, 62% | CN1C(=NC=CC1=O)NC1=CC=CC=C1 | C11H11N3O
